US07491713B2
Step A. Benzyl 4-[1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate
To a −78 □C solution of benzyl 4-(2-ethoxy-2-oxoethyl)piperidine-1-carboxylate (5.02 g, 16.4 mmol) in THF (90 mL) was added lithium hexamethyldisilazide (1.0 M in THF, 18.1 mL, 18.1 mmol). After 1 h allyl bromide (2.19 g, 18.1 mmol) was added, the reaction stirred at this temperature for 0.5 h, then warmed to 25 □C. After 3 h the reaction was quenched by the addition of saturated aqueous ammonium chloride and extracted with ethyl acetate (2×). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with a gradient of 0 to 60% EtOAc:hexanes to give the title compound (4.08 g). MS: m/z=346.1 (M+1).

reactant | benzyl 4-(2-ethoxy-2-oxoethyl)piperidine-1-carboxylate | 16.4 mmol, 5.02 g | C(C)OC(CC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C17H23NO4
reactant | lithium hexamethyldisilazide | 18.1 mmol, 1.0 M, 18.1 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl bromide | 18.1 mmol, 2.19 g | C(C=C)Br | C3H5Br
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | Benzyl 4-[1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate | 4.08 g | C(C)OC(=O)C(CC=C)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H27NO4
